US06794383B2
2-(2-Pyridyl)-4H-1,3-benzothiazin-4-one (Compound 1)
Methyl thiosalicylate (1.6 g, 9.51 mM) and 2-cyanopyridine (1.0 g, 9.60 mM) were dissolved in toluene (2 ml), and then triethylamine (2 ml, 14.4 mM) was added thereto. After heating the mixture under reflux for 8 hours, and the toluene was distilled away. Ethanol was added to the residues, and the resulting precipitates were collected by filtration to give crude crystals (1.7 g). The product was purified by silica gel column chromatography (hexane:chloroform=5:1→chloroform) to give the title compound as crystals (1.0 g, 43.4%).

reactant | Methyl thiosalicylate | 9.51 mM, 1.6 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 2-cyanopyridine | 9.60 mM, 1.0 g | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | triethylamine | 14.4 mM, 2 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Pyridyl)-4H-1,3-benzothiazin-4-one | 1.0 g, 43.4% | N1=C(C=CC=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C13H8N2OS
